US07294629B2
A solution (360 mL, 180 mmol) of ethynyl magnesium chloride in 0.5 M THF was stirred under ice-cooling and 1,3-diethoxyacetone (21.93 g, 150 mmol) was added dropwise. The mixture was stirred under ice-cooling for 30 min and acetic anhydride (18.4 mL, 195 mmol) was added dropwise. The mixture was stirred at room temperature for 1 hr. After the completion of the reaction, aqueous ammonium chloride solution was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated to give acetic acid 1,1-bis-ethoxymethyl-2-propynyl ester (31.36 g, 97%).

reactant | ethynyl magnesium chloride | 180 mmol, 360 mL | C(#C)[Mg]Cl
reactant | 1,3-diethoxyacetone | 150 mmol, 21.93 g | C(C)OCC(=O)COCC | C7H14O3
reactant | acetic anhydride | 195 mmol, 18.4 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 0.5 M | C1CCOC1 | C4H8O
product | acetic acid 1,1-bis-ethoxymethyl-2-propynyl ester | 31.36 g, 97% | C(C)OCC(C#C)(COCC)OC(C)=O | C11H18O4
